US07141669B2
Preparation of Intermediate 7-Chloro-2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridine (I-9A-1a)
A stirred suspension of 6-benzyl-2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridin-7(6H)-one (1A-3, 925 mg, 2.07 mmol) in POCl3 (20 ml) was heated at reflux for 5 days. After the reaction was cooled and concentrated, in vacuo, an ethyl acetate solution of the residue was washed with saturated aqueous NaHCO3 and then brine. The solution was dried (Na2SO4), concentrated, in vacuo, and then purified on a Biotage™ Flash 40S column using 0–40% ethyl acetate in hexanes to afford I-9A-1a as an off-white solid (600 mg, 77%): +ESI MS (M+1) 374.3; 1H NMR (400 MHz, CD2Cl2) δ 8.00 (d, J=6.2 Hz, 1H), 7.60–7.45 (m, 5H) 7.38 (d, J=8.7 Hz, 2H), 7.27 (d, J=8.7 Hz, 2H).

reactant | 6-benzyl-2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridin-7(6H)-one | 2.07 mmol, 925 mg | C(C1=CC=CC=C1)N1C(C=2C(C=C1)=C(N(N2)C2=C(C=CC=C2)Cl)C2=CC=C(C=C2)Cl)=O | C25H17Cl2N3O
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 7-Chloro-2-(2-chlorophenyl)-3-(4-chlorophenyl)-2H-pyrazolo[3,4-c]pyridine | 600 mg, 77% | ClC1=NC=CC=2C1=NN(C2C2=CC=C(C=C2)Cl)C2=C(C=CC=C2)Cl | C18H10Cl3N3
